US05559189
The 1,4-butanediol dipropiolate was prepared as follows. A solution of 27.5 g. (0.393 mole) of propiolic acid in 75 ml of benzene was reacted with 16.07 g. (0.179 mole) of 1,4-butanediol in the presence of 1.5 g. paratoluenesulfonic acid as a catalyst. The reaction mixture was stirred and heated to reflux under nitrogen until 6.44 g. of water was azeotroped over into a Dean-Stark trap. The reaction mixture was washed with 10% sodium carbonate aqueous solution until the pH value of the mixture was basic, then washed with deionized water several times and dried over sodium carbonate. The solvent was removed on a Rotavapor and 1,4-butanediol dipropiolate was obtained in 90% yield as white crystals with a melting point of 59° C. The structure of 1,4-butanediol dipropiolate is as follows:

reactant | propiolic acid | 0.393 mole | C(C#C)(=O)O | C3H2O2
reactant | 1,4-butanediol | 0.179 mole | C(CCCO)O | C4H10O2
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 1,4-butanediol dipropiolate | C(C#C)(=O)OCCCCOC(C#C)=O | C10H10O4
